US05434292
4.4 g of 1-pyrrolidino-1-cyclohexene, 6 g of methyl-2-(4-bromomethyl-3-chlorophenyl)propionate and 20 ml of dioxane were mixed together to obtain a mixed liquid which was refluxed under agitation for 4 hours. After the end of the reaction, the reaction mixture obtained was incorporated with diluted hydrochloric acid and then extracted with 100 ml of ethyl acetate. The extract obtained was washed with water, dried, freed of the solvent and then distilled at a reduced pressure thereby to obtain 4.6 g (in a yield of 73%) of oily methyl-2-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]propionate.

reactant | 1-pyrrolidino-1-cyclohexene | 4.4 g | N1(CCCC1)C1=CCCCC1 | C10H17N
reactant | methyl-2-(4-bromomethyl-3-chlorophenyl)propionate | 6 g | COC(C(C)C1=CC(=C(C=C1)CBr)Cl)=O | C11H12BrClO2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | methyl-2-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]propionate | yield of 73% | COC(C(C)C1=CC(=C(C=C1)CC1C(CCCC1)=O)Cl)=O | C17H21ClO3
